US07091199B1
Preparation of 1-phenyl-2-[3-(3-thieno[2,3-d]isoxazol-3-yl-phenoxy)-propylamino]-ethanol (Scheme I, Compound 1)
The title compound is prepared from a mixture of 3-[3-(3-bromo-propoxy)-phenyl]-thieno[2,3-d]isoxazole, 3-[3-(3-chloro-propoxy)-phenyl]-thieno[2,3-d]isoxazole, 2-amino-1-phenylethanol and potassium carbonate essentially as described above in example 4 except that the column is eluted with a mixture of dichloromethane:methanol (95:5). Combine the appropriate fractions and concentrate to give the title compound (0.62 g, 100% Yield) as a solid. Purity by LC/MS (APCI)=100% area, [M+H]+=395 m/e.

reactant | 3-[3-(3-bromo-propoxy)-phenyl]-thieno[2,3-d]isoxazole | BrCCCOC=1C=C(C=CC1)C1=NOC2=C1SC=C2 | C14H12BrNO2S
reactant | 3-[3-(3-chloro-propoxy)-phenyl]-thieno[2,3-d]isoxazole | ClCCCOC=1C=C(C=CC1)C1=NOC2=C1SC=C2 | C14H12ClNO2S
reactant | 2-amino-1-phenylethanol | NCC(O)C1=CC=CC=C1 | C8H11NO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 1-phenyl-2-[3-(3-thieno[2,3-d]isoxazol-3-yl-phenoxy)-propylamino]-ethanol | 0.62 g, 100% Yield | C1(=CC=CC=C1)C(CNCCCOC1=CC(=CC=C1)C1=NOC2=C1SC=C2)O | C22H22N2O3S
